US09359371B2
In THF (50 mL) were dissolved 2-(3-azabicyclo[3.1.0]hexan-3-yl)-4-((3-chloro-4-methoxybenzyl)amino)pyrimidine-5-carboxylic acid (202 mg, 0.54 mmol), (5-methylpyrazine-2-yl)methylamine (79 mg, 0.64 mmol) and triethylamine (0.2 mL). The solution was cooled in an ice bath and HATU (266 mg, 0.70 mmol) was then added. The reaction was conducted at ambient temperature for 18 h. The reaction mixture was concentrated, followed by addition of water and extraction with ethyl acetate. The organic phase was dried, concentrated, and purified by silica gel column chromatography (DCM/methanol=50/1) to give 2-(3-azabicyclo[3.1.0]hexan-3-yl)-4-((3-chloro-4-methoxybenzyl)amino)-N-((5-methylpyrazine-2-yl)methyl)pyrimidine-5-formamide (105 mg, 40% yield).

reactant | 2-(3-azabicyclo[3.1.0]hexan-3-yl)-4-((3-chloro-4-methoxybenzyl)amino)pyrimidine-5-carboxylic acid | 0.54 mmol, 202 mg | C12CN(CC2C1)C1=NC=C(C(=N1)NCC1=CC(=C(C=C1)OC)Cl)C(=O)O | C18H19ClN4O3
reactant | (5-methylpyrazine-2-yl)methylamine | 0.64 mmol, 79 mg | CC=1N=CC(=NC1)CN | C6H9N3
reactant | triethylamine | 0.2 mL | C(C)N(CC)CC | C6H15N
reactant | HATU | 0.70 mmol, 266 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | 2-(3-azabicyclo[3.1.0]hexan-3-yl)-4-((3-chloro-4-methoxybenzyl)amino)-N-((5-methylpyrazine-2-yl)methyl)pyrimidine-5-formamide | 105 mg, 40% yield | C12CN(CC2C1)C1=NC=C(C(=N1)NCC1=CC(=C(C=C1)OC)Cl)C(=O)NCC1=NC=C(N=C1)C | C24H26ClN7O2
